US04808723
67.5 g of 4-chloro-3,5-dinitrobenzotrifluoride are slowly introduced, with stirring, into a solution of 76 g of thiourea in 250 ml of sulpholane at 100° C. The mixture is stirred at 100° C. for a further one hour. After cooling, the precipitate is filtered off with suction and dried. 35.7 g of crude 2-amino-5-trifluoromethyl-7-nitrobenzothiazole of melting point 254°-256° C. (decomposition) are obtained. Recrystallisation from pyridine/water (3/1) raises the melting point to 262°-263° C. me+ : 263.

reactant | 4-chloro-3,5-dinitrobenzotrifluoride | 67.5 g | ClC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C7H2ClF3N2O4
reactant | thiourea | 76 g | NC(=S)N | CH4N2S
solvent | sulpholane | 250 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2-amino-5-trifluoromethyl-7-nitrobenzothiazole | 35.7 g | NC=1SC2=C(N1)C=C(C=C2[N+](=O)[O-])C(F)(F)F | C8H4F3N3O2S
